US08034814B2
17d) 1-Chloro-4-[5-bromo-6-methoxy-(pyridin-3-yl)-methyl]phthalazine
To a suspension of 1.38 g (4.00 mMol) of 4-[5-bromo-6-methoxy-(pyridin-3-yl)-methyl]phthalazin-1(2H)-one and 1.33 g (8.0 mMol) of Et4NCl in 75 ml of acetonitrile under N2-atmosphere, 1.01 ml (8.0 mMol) of N,N-dimethyl-aniline and 8.79 ml (96 mMol) of POCl3 are added. After heating the mixture for 1 h to 90° C., the resulting solution is cooled to RT, pored into 400 ml of icewater and 500 ml sat. NaHCO3 solution and extracted with 3 portions of EtOAc. The organic phases are washed twice with water and brine, dried (Na2SO4) and concentrated to the title compound containing some 1-chloro-4-[5-bromo-6-hydroxy-(pyridin-3-yl)-methyl]phthalazine: FAB-MS: (M+H)+=364/366; HPLC(Grad20-100) tRet=14.5.

reactant | 4-[5-bromo-6-methoxy-(pyridin-3-yl)-methyl]phthalazin-1(2H)-one | 4.00 mMol, 1.38 g | BrC=1C=C(C=NC1OC)CC1=NNC(C2=CC=CC=C12)=O | C15H12BrN3O2
reactant | N,N-dimethyl-aniline | 8.0 mMol, 1.01 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | POCl3 | 96 mMol, 8.79 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | 500 ml | C(=O)(O)[O-].[Na+]
catalyst | Et4NCl | 8.0 mMol, 1.33 g | [N+](CC)(CC)(CC)CC.[Cl-]
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 1-Chloro-4-[5-bromo-6-methoxy-(pyridin-3-yl)-methyl]phthalazine | ClC1=NN=C(C2=CC=CC=C12)CC=1C=NC(=C(C1)Br)OC | C15H11BrClN3O
